US04125732
Methyl(p-chlorophenoxy){p-[2-(p-tert.-butylphenoxy)ethoxy]phenyl}acetate
A mixture of 1.55 g of p-chlorophenol, 0.47 g of 60% sodium hydride-oil dispersion and 20 ml of tetrahydrofuran is stirred at room temperature for 90 minutes. To the mixture is added 2.22 g of potassium iodide, 1 ml of hexamethylphosphoramide and dropwise 5.04 g of methyl bromo{p-[2-(p-tert.-butylphenoxy)ethoxy]phenyl}acetate in 30 ml of tetrahydrofuran. The mixture is refluxed for 18 hours and poured into 350 ml of ice-water containing 1 ml of acetic acid. After stirring in an ice bath for 30 minutes, the mixture is filtered and the solid washed with water to give 5.5 g of product as tan crystals. Recrystallization by dissolving in acetone, adding hexane and distilling off the acetone gives 3.9 g of white crystals, mp 128°-130° C.

reactant | p-chlorophenol | 1.55 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium hydride | 0.47 g | [H-].[Na+]
reactant | potassium iodide | 2.22 g | [I-].[K+]
reactant | methyl bromo{p-[2-(p-tert.-butylphenoxy)ethoxy]phenyl}acetate | 5.04 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCOC1=CC=C(C=C1)C(C)(C)C | C21H25BrO4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | hexamethylphosphoramide | 1 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Methyl(p-chlorophenoxy){p-[2-(p-tert.-butylphenoxy)ethoxy]phenyl}acetate | 5.5 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC=C(C=C1)C(C)(C)C)OC1=CC=C(C=C1)Cl)=O | C27H29ClO5
